US04588719
5-(3-Aminopropoxy)-1-(N-pyrrolidinyl)-1,2,3,4-tetrahydronaphthalene
85% hydrazine hydrate (8.3 ml) is added to a stirred solution of the phthalimido pyrrolidinyl tetrahydronaphthalene obtained in the previous step (about 51 g) dissolved in absolute ethanol (500 ml), and the reaction mixture is heated to reflux for 3 hours and then allowed to cool. A precipitate forms upon cooling, and the reaction mixture is filtered, the precipitate washed with absolute ethanol, and the filtrate evaporated in vacuo, resulting in a solid. The solid is triturated with 5% aqueous HCl, filtered, and the solid washed with additional 5% HCl solution. The acidic filtrate is washed with diethyl ether and made basic with 50% aqueous sodium hydroxide, resulting in the formation of a golden oil. The oil is extracted with diethyl ether, washed with H2O, dried over sodium sulfate, filtered and evaporated in vacuo, resulting in 17 g of a golden oil. NMR analysis indicates that this oil is the desired amino product.

reactant | hydrazine hydrate | 8.3 ml | O.NN
reactant | phthalimido pyrrolidinyl tetrahydronaphthalene | C1(C=2C(C(N1C1(CCCC3=CC=CC=C13)N1CCCC1)=O)=CC=CC2)=O | C22H22N2O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-(3-Aminopropoxy)-1-(N-pyrrolidinyl)-1,2,3,4-tetrahydronaphthalene | 17 g | NCCCOC1=C2CCCC(C2=CC=C1)N1CCCC1 | C17H26N2O
